US08030500B2
1-(2-Bromopyridin-4-yl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine
n-Butyllithium (0.229 mL, 0.57 mmol) was added to 6-bromo-3-methoxy-2,4-dimethylpyridine (124 mg, 0.57 mmol) in THF (7 mL) at −78° C. under nitrogen atmosphere. The reaction was stirred for 30 min before (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (180 mg, 0.44 mmol) in THF (2 mL) was added. The reaction was kept at −78° C. for 1 hour and then allowed to reach room temp. Methanol (5 mL) was added followed by hydrochloric acid in diethylether (1.323 mL, 1.32 mmol) and the reaction mixture was stirred 1 hour at room temperature. NaHCO3(sat) was added and the mixture was extracted with EtOAc (×2). The combined organic phases were dried and concentrated to give the title compound (200 mg, 97%), which was used without further purification. MS (ES+) m/z 441, 443 [M+1]+.

reactant | n-Butyllithium | 0.57 mmol, 0.229 mL | C(CCC)[Li]
reactant | 6-bromo-3-methoxy-2,4-dimethylpyridine | 0.57 mmol, 124 mg | BrC1=CC(=C(C(=N1)C)OC)C | C8H10BrNO
reactant | (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.44 mmol, 180 mg | BrC1=NC=CC(=C1)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C17H15BrFN3OS
reactant | hydrochloric acid | Cl | ClH
reactant | diethylether | 1.32 mmol, 1.323 mL | C(C)OCC | C4H10O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Methanol | 5 mL | CO | CH4O
product | 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine | 200 mg, 97% | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=C(C(=C1)C)OC)C | C21H18BrFN4O
